US05939561
Into a solution of 3.88 g of (3R,4R)-3-acetoxy-4-(2-thienyl)-2-azetidinone in 60 cm3 of methanol is injected a stream of anhydrous ammonia gas at a temperature in the region of 5° C. for one hour with stirring. The reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. The residual solid is purified by chromatography on 180 g of silica (0.063-0.2 mm) contained in a column of diameter 4 cm [eluent: dichloromethane/methanol (95/5 by volume)], collecting 10 cm3 fractions. The fractions containing only the desired product are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. 2.24 g of (3R,4R)-3-hydroxy-4-(2-thienyl)-2-azetidinone are obtained in the form of white crystals melting at 174° C. and for which the physical characteristics are the following:

reactant | (3R,4R)-3-acetoxy-4-(2-thienyl)-2-azetidinone | 3.88 g | C(C)(=O)O[C@H]1C(N[C@H]1C=1SC=CC1)=O | C9H9NO3S
reactant | ammonia | N | H3N
solvent | methanol | 60 cm3 | CO | CH4O
product | (3R,4R)-3-hydroxy-4-(2-thienyl)-2-azetidinone | 2.24 g | O[C@H]1C(N[C@H]1C=1SC=CC1)=O | C7H7NO2S
